US06462035B1
11-AZA-TRICYCLO[7.3.1.02,7]TRIDECA-2(7),3,5-TRIEN-5-OL HYDROCHLORIDE
5-Methoxy-11-aza-tricyclo[7.3.1.02,7]trideca-2(7),3,5-triene hydrochloride (187 mg, 0.78 mmol) was brought to reflux in 48%HBr (5 mL). After 1 hour the solution was cooled and poured into aq. NH4OH soln., the pH was adjusted to ˜9 and the product was extracted with EtOAc (3×40 mL). The organic layer was washed with brine (50 mL), dried (MgSO4) and concentrated to a solid. (TLC 10%MeOH/CH2Cl2 (NH3) Rf 0.13). This material was dissolved in excess 1N HCl MeOH and concentrated. Recrystallization from MeOH/Et2O provided a solid (70 mg, 40%). 1H NMR (CD3OD) δ6.99 (d, J=8.0 Hz, 1H), 6.63 (m, 2H), 3.48-3.11 (6H), 2.83 (d, J=18.0 Hz, 1H), 2.42 (br s, 1H), 2.08 (AB d, J=12.5 Hz, 1H), 1.93 (AB d, J=12.5 Hz, 1H). mp 295-298° C.

reactant | 5-Methoxy-11-aza-tricyclo[7.3.1.02,7]trideca-2(7),3,5-triene hydrochloride | 0.78 mmol, 187 mg | Cl.COC=1C=CC=2C3CNCC(CC2C1)C3
reactant | HBr | 5 mL | Br | BrH
reactant | NH4OH | [NH4+].[OH-]
product | 11-AZA-TRICYCLO[7.3.1.02,7]TRIDECA-2(7),3,5-TRIEN-5-OL HYDROCHLORIDE | 70 mg, 40% | Cl.C12C=3C=CC(=CC3CC(CNC1)C2)O | InChI=1S/C12H15NO.ClH/c14-11-1-2-12-9(5-11)3-8-4-10(12)7-13-6-8;/h1-2,5,8,10,13-14H,3-4,6-7H2;1H
